US07906660B2
Palladium-on-charcoal (5%, 0.12 g) was added to a suspension of 4′,7-diacetoxy-8-methylisoflavone (1.0 g, 2.8 mmol) in methanol (200 ml) and the mixture was stirred at room temperature under a hydrogen atmosphere for 55 h. The catalyst was removed by filtration through Celite and the filtrate was evaporated in vacuo to yield 4′,7-diacetoxy-8-methylisoflavan-4-ol in quantitative yield, m.p. 135-37° C. A nuclear magnetic resonance spectrum revealed the product to be a clean 1:1 mixture of cis- and trans-4′,7-diacetoxy-8-methylisoflavan-4-ol. Mass spectrum: 356 (M, 53%); 254 (86); 253 (100); 240 (80); 196 (37).

reactant | 4′,7-diacetoxy-8-methylisoflavone | 2.8 mmol, 1.0 g | C(C)(=O)OC1=CC=C(C2=COC3=C(C(=CC=C3C2=O)OC(C)=O)C)C=C1 | C20H16O6
solvent | methanol | 200 ml | CO | CH4O
catalyst | Palladium-on-charcoal | 0.12 g | [Pd] | Pd
product | 4′,7-diacetoxy-8-methylisoflavan-4-ol | quantitative yield | C(C)(=O)OC1=CC=C(C2COC3=C(C(=CC=C3C2O)OC(C)=O)C)C=C1 | C20H20O6
